US08003796B2
Step A. Preparation of benzyl 4-(methylsulfonyloxy)piperidine-1-carboxylate
To a stirring solution of benzyl 4-hydroxy-1-piperidinecarboxylate (3.55 mL, 23.4 mmol, Aldrich) and Et3N (7.18 mL, 51.5 mmol, Aldrich) in CH2Cl2 (25 mL) at room temperature was added a solution of methanesulfonyl chloride (1.99 mL, 25.8 mmol, Acros) in CH2Cl2 (25 mL) dropwise. The reaction mixture was stirred at room temperature for 1 h and washed with 1N HCl aqueous solution, H2O and brine. The organic layer was dried over Na2SO4 and concentrated in vacuo to yield 7.43 g of the desired product as a yellow oil. MS (ESI) 314 (M+H).

reactant | benzyl 4-hydroxy-1-piperidinecarboxylate | 23.4 mmol, 3.55 mL | OC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C13H17NO3
reactant | Et3N | 51.5 mmol, 7.18 mL | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 25.8 mmol, 1.99 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | benzyl 4-(methylsulfonyloxy)piperidine-1-carboxylate | 7.43 g | CS(=O)(=O)OC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C14H19NO5S
